US05648373
Diethyl 7-(2,4,5-triphenylimidazol-1-yl)heptane-phosphonate (0.35 g) was dissolved in dry chloroform, cooled to -40° C. and to it was added trimethylsilyl iodide (0.66 g) over 2 minutes under an atmosphere of nitrogen. The cooling bath was removed and the reaction mixture was stirred for 3 hours at room temperature then evaporated to an oil and revaporated evaporated from methanol and water respectively. The oil was taken up in methanol, treated with excess aqueous sodium bicarbonate, evaporated to dryness then taken up in ethanol, filtered and the filtrate evaporated to an oil. This was taken up in water, filtered and dilute hydrochloric acid added to pH4. The precipitated oil was washed with water, taken up in methanol and precipitated with ether to give 7-(2,4,5-triphenylimidazol-1-yl)heptane-phosphonic acid (0.16 g, 51%) as a light brown oil. Found: C, 68.12; H, 6.39, N, 5.60% C28H31N2O3P+4% H2O requires: C, 68.03; H 6.76); N, 5.66%.

reactant | Diethyl 7-(2,4,5-triphenylimidazol-1-yl)heptane-phosphonate | 0.35 g | C1(=CC=CC=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCP(OCC)(=O)OCC | C32H39N2O3P
reactant | trimethylsilyl iodide | 0.66 g | C[Si](C)(C)I | C3H9ISi
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-(2,4,5-triphenylimidazol-1-yl)heptane-phosphonic acid | 0.16 g, 51% | C1(=CC=CC=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCP(O)(=O)O | C28H31N2O3P
